US05849735
N-[5-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide
As described for Example 1, 6,11-dihydro-5H-dibenz[b,e]azepine is reacted in dichloromethane in the presence of triethylamine, with 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride to give the product as a solid.

reactant | 6,11-dihydro-5H-dibenz[b,e]azepine | C1=CC=CC=2NCC3=C(CC21)C=CC=C3 | C14H13N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)Cl)C1)C | C14H10ClFN2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[5-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C=3C=CC(=NC3)NC(C3=C(C=CC(=C3)F)C)=O | C28H22FN3O2
